US04695573
9-(4-Chlorobenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
To a cooled solution of 6.25 g of 9-(4-chlorobenzylamino)-3,4-dihydroacridin-1(2H)-one in 140 ml of tetrahydrofuran was added 10 ml of 1M LiAlH4 solution in THF. This was stirred at ice bath temperature for 1 hour.

reactant | 9-(4-chlorobenzylamino)-3,4-dihydroacridin-1(2H)-one | 6.25 g | ClC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=C1 | C20H17ClN2O
reactant | LiAlH4 | 1M, 10 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 9-(4-Chlorobenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | ClC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=C1 | C20H19ClN2O
